US06867198B2
7-[2,5-Dioxo-4-(7-triisopropylsilanyloxymethyl-1H-indol-3-yl)-2,5-dihydro-1H-pyrrol-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic Acid Tert-butyl Ester
Beginning with 7-Carbamoylmethyl-3,4-dihydro-1H-[1,4]diaze-pino[6,7,1-hi]indole-2-carboxylic acid tert-butyl ester and oxo-(7-triisopropylsilanyloxymethyl-1H-indol-3-yl)-acetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | 7-Carbamoylmethyl-3,4-dihydro-1H-[1,4]diaze-pino[6,7,1-hi]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)CC(N)=O | C18H23N3O3
reactant | oxo-(7-triisopropylsilanyloxymethyl-1H-indol-3-yl)-acetic acid methyl ester | COC(C(C1=CNC2=C(C=CC=C12)CO[Si](C(C)C)(C(C)C)C(C)C)=O)=O | C21H31NO4Si
product | 7-[2,5-Dioxo-4-(7-triisopropylsilanyloxymethyl-1H-indol-3-yl)-2,5-dihydro-1H-pyrrol-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)C=1C(NC(C1C1=CNC2=C(C=CC=C12)CO[Si](C(C)C)(C(C)C)C(C)C)=O)=O | C38H48N4O5Si
